US04259336
N-[4-(4-Chlorophenyl)-2-thiazolyl]-4-hydroxy-2-methyl-2H-[1] benzothieno [2,3-e]-1,2-thiazine-3-carboxamide-1,1-dioxide
Prepared analogous to Example 1 from ethyl 4-hydroxy-2-methyl-2H-[1]-benzothieno [2,3-e]-1,2-thiazine-3-carboxylate-1,1-dioxide and 4-(4-chlorphenyl)-2-thiazolamine with a yield of 40% of theory.

reactant | ethyl 4-hydroxy-2-methyl-2H-[1]-benzothieno [2,3-e]-1,2-thiazine-3-carboxylate-1,1-dioxide | OC1=C(N(S(C2=C1SC1=C2C=CC=C1)(=O)=O)C)C(=O)OCC | C14H13NO5S2
reactant | 4-(4-chlorphenyl)-2-thiazolamine | ClC1=CC=C(C=C1)C=1N=C(SC1)N | C9H7ClN2S
product | N-[4-(4-Chlorophenyl)-2-thiazolyl]-4-hydroxy-2-methyl-2H-[1] benzothieno [2,3-e]-1,2-thiazine-3-carboxamide-1,1-dioxide | yield of 40% | ClC1=CC=C(C=C1)C=1N=C(SC1)NC(=O)C=1N(S(C2=C(C1O)SC1=C2C=CC=C1)(=O)=O)C | C21H14ClN3O4S3
